US04137315
A solution of 5-amino-4-carboxy-1-ethoxyisoquinoline (50.8 g) and 2,5-dimethoxytetrahydrofuran (32 cc) in acetic acid (250 cc) is kept at a temperature between 90° and 95° C. for 35 minutes, whilst stirring. The solution is cooled to about 20° C. and then poured into water (1250 cc). The yellow crystals which precipitate are filtered off and washed with water (5 × 50 cc). After drying under reduced pressure (1 mm Hg) at 20° C., crude 4-ethoxy-7-oxo-7H-indolizino[7,6,5-de]isoquinoline (52.7 g) is obtained. After recrystallisation from ethanol, the pure product melts at 188° C.

reactant | 5-amino-4-carboxy-1-ethoxyisoquinoline | 50.8 g | NC1=C2C(=CN=C(C2=CC=C1)OCC)C(=O)O | C12H12N2O3
reactant | 2,5-dimethoxytetrahydrofuran | 32 cc | COC1OC(CC1)OC | C6H12O3
reactant | water | 1250 cc | O | H2O
solvent | acetic acid | 250 cc | C(C)(=O)O | C2H4O2
product | 4-ethoxy-7-oxo-7H-indolizino[7,6,5-de]isoquinoline | 52.7 g | C(C)OC1=NC=C2C=3C(=CC=CC13)N1C=CC=C1C2=O | C16H12N2O2
